US09328118B2
A solution of tert-butyl(3R)-3-hydroxypyrrolidine-1-carboxylate (7.0 g) in THF (30 mL) was added to a suspension of 60% sodium hydroxide (2.3 g) in THF (40 mL) under ice-cooling. At the same temperature, a THF (30 mL) solution of ethyl bromoacetate (13 mL) was added to the mixture, and the mixture was stirred overnight. After water and EtOAc were added to the reaction mixture, extraction thereof was performed using EtOAc, and the extract was washed with saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=99:1 to 70:30), whereby tert-butyl(3R)-3-(2-ethoxy-2-oxoethoxy)pyrrolidine-1-carboxylate (6.6 g) was obtained as an oil.

reactant | tert-butyl(3R)-3-hydroxypyrrolidine-1-carboxylate | 7.0 g | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | sodium hydroxide | 2.3 g | [OH-].[Na+]
reactant | ethyl bromoacetate | 13 mL | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(3R)-3-(2-ethoxy-2-oxoethoxy)pyrrolidine-1-carboxylate | 6.6 g | C(C)OC(CO[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C13H23NO5
